US07671066B2
Preparation of 3-benzyloxy-benzoic acid (Z)-2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)vinyl ester (CHF 5524)
The compound was obtained starting from 3,4-dimethoxy-benzoyl chloride, 3,5-dichloro-4-methylpyridine and 3-benzyloxy-benzoyl chloride, following the procedure of Example 24.

reactant | 3,4-dimethoxy-benzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
reactant | 3,5-dichloro-4-methylpyridine | ClC=1C=NC=C(C1C)Cl | C6H5Cl2N
reactant | 3-benzyloxy-benzoyl chloride | C(C1=CC=CC=C1)OC=1C=C(C(=O)Cl)C=CC1 | C14H11ClO2
product | 3-benzyloxy-benzoic acid (Z)-2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)vinyl ester | ClC=1C=NC=C(C1\C=C(\C1=CC(=C(C=C1)OC)OC)/OC(C1=CC(=CC=C1)OCC1=CC=CC=C1)=O)Cl | C29H23Cl2NO5
